US05998402
4-(3-chloropropoxy)-benzyl alcohol
A solution of 4-hydroxy benzyl alcohol CAS No. [623-05-2] (10 g, 80.5 mmol) in ethanol (70 mL) was treated with 1, 3 bromochloro propane (16.0 g , 100 mmol) and potassium hydroxide (5.0 g, 89 mmol) was refluxed for 2 hours. The solution was cooled and filtered and then the filtrate concentrated. The concentrate was taken up in ether and washed with water, brine and dried over magnesium sulfate. The material was chromatographed on silica gel using ethyl acetate/hexanes (3:7) to yield 11.6 g of the product as a white solid: Mp=65° C.; 1H NMR (DMSO) 7.21 (d, 2H, J=8.8 Hz), 6.88 (d, 2H, J=8.8 Hz), 5.03 (t, 1H, J=5.7 Hz), 4.40 (d, 2H, J=5.5 Hz), 4.05 (t, 2H, J=6.1 Hz), 3.77 (t, 2H, J=6.4 Hz); MS eI m/z 200.

reactant | 4-hydroxy benzyl alcohol | OC1=CC=C(CO)C=C1 | C7H8O2
reactant | bromochloro propane | 100 mmol, 16.0 g | BrC(CC)Cl | C3H6BrCl
reactant | potassium hydroxide | 89 mmol, 5.0 g | [OH-].[K+]
solvent | ethanol | 70 mL | C(C)O | C2H6O
product | 4-(3-chloropropoxy)-benzyl alcohol | 11.6 g | ClCCCOC1=CC=C(CO)C=C1 | C10H13ClO2
